US08445690B2
2-[2-(4-Methyl-piperazin-1-yl)ethylamino]-thiazol-4-one was prepared from 2-Methylsulfanyl-thiazol-4-one and 2-(4-Methyl-piperazin-1-yl)-ethylamine following general procedure E.

reactant | 2-Methylsulfanyl-thiazol-4-one | CSC=1SCC(N1)=O | C4H5NOS2
reactant | 2-(4-Methyl-piperazin-1-yl)-ethylamine | CN1CCN(CC1)CCN | C7H17N3
product | 2-[2-(4-Methyl-piperazin-1-yl)ethylamino]-thiazol-4-one | CN1CCN(CC1)CCNC=1SCC(N1)=O | C10H18N4OS
